US05948793
108b. 3,5-dinitro-pyridine
Silver acetate (2.0 g) was added to a solution of the crude 3,5-dinitro-pyridinyl-hydrazine (2.2 g) in a mixture of methanol:H2O (1:1, 6 ml), and the mixture was stirred at reflux overnight. Solvent was evaporated, then water and conc. NH4OH were added. The mixture was extracted with ethyl ether, the combined extracts were dried over MgSO4, concentrated and purified by column chromatography (5:1 hexane: ethyl acetate) to give the title compound (400 mg) in 21.8% yield. MS (DCI/NH3) m/e: 124 (M-46+1). 1H NMR (CDCl3, 300 MHz) δ: 9.77 (m, 2H), 9.27 (m, 1H).

reactant | 3,5-dinitro-pyridinyl-hydrazine | 2.2 g | [N+](=O)([O-])C=1C(=NC=C(C1)[N+](=O)[O-])NN | C5H5N5O4
solvent | methanol H2O | 6 ml | CO.O
catalyst | Silver acetate | 2.0 g | C(C)(=O)[O-].[Ag+]
product | 3,5-dinitro-pyridine | 400 mg, 21.8% yield | [N+](=O)([O-])C=1C=NC=C(C1)[N+](=O)[O-] | C5H3N3O4
